US07608604B2
4-Bromo-2-fluoro-6-(trifluoromethyl)aniline
To a solution of 2-amino-3-fluorobenzotrifluoride (0.7 ml, 5.6 mmol) in acetonitrile (2 ml) was added N-bromosuccinimide (994 mg, 5.6 mmol), followed by iron (III) chloride (90.1 mg, 0.6 mmol). The reaction mixture was stirred at room temperature for 90 min, before addition of water (20 ml). The mixture was extracted with tert-butyl methyl ether (2×15 ml) and the combined extracts were washed with brine (20 ml), dried (MgSO4) and concentrated in vacuo to give the title compound (1.4 g), which was used directly.

reactant | 2-amino-3-fluorobenzotrifluoride | 5.6 mmol, 0.7 ml | NC1=C(C=CC=C1F)C(F)(F)F | C7H5F4N
reactant | N-bromosuccinimide | 5.6 mmol, 994 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 20 ml | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | iron (III) chloride | 0.6 mmol, 90.1 mg | [Fe](Cl)(Cl)Cl
product | 4-Bromo-2-fluoro-6-(trifluoromethyl)aniline | 1.4 g | BrC1=CC(=C(N)C(=C1)C(F)(F)F)F | C7H4BrF4N
